US06872833B2
To a solution of 437 mg (3.33 mmol) N-(2-hydroxyethyl)morpholine and 20 mg (0.09 mmol) 2,6-di-tert-butyl-para-cresol in 5 ml dioxane and 1 ml DMF was added portionwise 194 mg (4.44 mmol) sodium hydride (55% dispersion in oil) and the mixture heated at 50° C. for 30 min. 200 mg (0.44 mmol) (+)-2-bromo-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-isonicotinamide was then added and the mixture heated at 80° C. for 16 h. The reaction mixture was then poured onto water and extracted three times with ethyl acetate. The organic phases were dried over sodium sulfate and concentrated in vacuo. Flash chromatography (5/95 methanol/ethyl acetate) followed by trituration in ether and hexane afforded 160 mg (72%) (+)-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-2-(2-morpholin-4-yl-ethoxy)-isonicotinamide as a white solid. [α]D20=+51.2° (c=1.04, CHCl3), ES-MS m/e (%): 501 (M+H+, 100).

reactant | N-(2-hydroxyethyl)morpholine | 3.33 mmol, 437 mg | OCCN1CCOCC1 | C6H13NO2
reactant | 2,6-di-tert-butyl-para-cresol | 0.09 mmol, 20 mg | C(C)(C)(C)C1=CC(=CC(=C1O)C(C)(C)C)C | C15H24O
reactant | sodium hydride | 4.44 mmol, 194 mg | [H-].[Na+]
reactant | (+)-2-bromo-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-isonicotinamide | 0.44 mmol, 200 mg | BrC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3OCCOC3)OC)C=CN1 | C18H16BrN3O4S
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | (+)-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-2-(2-morpholin-4-yl-ethoxy)-isonicotinamide | 160 mg, 72% | O1C(COCC1)C1=CC=C(C=2N=C(SC21)NC(C2=CC(=NC=C2)OCCN2CCOCC2)=O)OC | C24H28N4O6S
